US07576215B2
[4-(3-ISOPROPOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromo-propane following the procedure of Example 478: MS (ESI) m/z 436.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromo-propane | BrC(C)C | C3H7Br
product | [4-(3-ISOPROPOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | C(C)(C)OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C26H20F3NO2
